US04351833
dl-1-Formyl-5-hydroxy-3-hydroxymethylene-2-methyl-7-(2-heptyloxy)-4-oxo-1,2,3,4-tetrahydroquinoline
1H NMR (60 MHz) (CDCl3) ppm (delta): 12.4 (bs, 1H, phenolic), 8.5 (s, 1H, CHO), 7.2 (m, 6H, aromatic and =CH--), 6.2 (m, 2H, aromatic), 4.5 (s, 2H, --CH2 --), 4.4 (m, 1H, --CH--CH3), 2.6 (bt, 2H, --CH2 --), 1.7 (m, 5H, remaining protons), 1.3 (d, 3H, --CH--CH3, J=6 Hz). and dl-5-hydroxy-2-methyl-7-(4-phenylbutyloxy)-4-oxo-1,2,3,4-tetrahydroquinoline is converted to dl-1-formyl-5-hydroxy-3-hydroxymethylene-2-methyl-7-(4-phenylbutyloxy)-4-oxo-1,2,3,4-tetrahydroquinoline, m.p. 132°-135° C. (from hexane). Recrystallization from hot methanol provides the analytical sample, m.p. 131°-132° C.

reactant | dl-5 hydroxy-2-methyl-7-(4-phenylbutyloxy)-4-oxo-1,2,3,4-tetrahydroquinoline | COC1=C(C=CC(=C1)CNCCCNCCCCNCCCN)O.ON1C(CC(C2=CC=C(C=C12)OCCCCC1=CC=CC=C1)=O)C
reactant | 1-formyl-5-hydroxy-3-hydroxymethylene-2-methyl-7-(4-phenylbutyloxy)-4-oxo-1,2,3,4-tetrahydroquinoline | C(=O)N1C(C(C(C2=C(C=C(C=C12)OCCCCC1=CC=CC=C1)O)=O)=CO)C | C22H23NO5
solvent | hexane | CCCCCC | C6H14
product | 1-Formyl-5-hydroxy-3-hydroxymethylene-2-methyl-7-(2-heptyloxy)-4-oxo-1,2,3,4-tetrahydroquinoline | C(=O)N1C(C(C(C2=C(C=C(C=C12)OC(C)CCCCC)O)=O)=CO)C | C19H25NO5
